*Circuito t3_1 

.param n=10

*Vin and tranformer with dependent sources

Vin 1 0 sin(0 230 50 0 0)
Ftransf 1 0 Etransf n
Etransf 2 3 1 0 n


*Full wave rectifier

Dr1 2 4 Default
Dr2 3 4 Default
Dr3 0 3  Default
Dr4 0 2 Default

*Envelope detector

Re 4 0 1k
Ce 4 0 400u

*Voltage Regulator

Rv 4 5 8.3356k

Dv1 5 6 Default
Dv2 6 7 Default
Dv3 7 8 Default
Dv4 8 9 Default
Dv5 9 10 Default
Dv6 10 11 Default
Dv7 11 12 Default
Dv8 12 13 Default
Dv9 13 14 Default
Dv10 14 15 Default
Dv11 15 16 Default
Dv12 16 17 Default
Dv13 17 18 Default
Dv14 18 19 Default
DV15 19 0 Default

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

********************************************
*analise no tempo
tran 0.01M 300M 40m
hardcopy Venv.ps v(4)
echo Venv_FIG

hardcopy Vout.ps v(5)
echo Vout_FIG

hardcopy deviation.ps (v(5)-12)
echo deviation_FIG

meas tran maxout MAX v(5) from=50m to=300m
meas tran minout MIN v(5) from=50m to=300m
meas tran avgout AVG v(5) from=50m to=300m

print maxout
print minout
print maxout-minout
print avgout

.endc
********************************************